Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CS(=O)(=O)O[CH2:1][CH2:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH2:10][CH2:11][N:12]([C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23]1.[CH3:24][CH2:25][O:26][CH2:27][CH2:28][n:29]1[c:30]([N:31]2[CH2:32][CH2:33][CH2:34][NH:35][CH2:36][CH2:37]2)[n:38][c:39]2[cH:40][cH:41][cH:42][cH:43][c:44]12>>[CH2:1]([CH2:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH2:10][CH2:11][N:12]([C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23]1)[N:35]1[CH2:34][CH2:33][CH2:32][N:31]([c:30]2[n:29]([CH2:28][CH2:27][O:26][CH2:25][CH3:24])[c:44]3[c:39]([n:38]2)[cH:40][cH:41][cH:42][cH:43]3)[CH2:37][CH2:36]1,CS(=O)(=O)[O:101][CH2:1][CH2:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH2:10][CH2:11][N:12]([C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23]1.[CH3:24][CH2:25][O:26][CH2:27][CH2:28][n:29]1[c:30]([N:31]2[CH2:32][CH2:33][CH2:34][NH:35][CH2:36][CH2:37]2)[n:38][c:39]2[cH:40][cH:41][cH:42][cH:43][c:44]12>>[CH2:1]([CH2:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH2:10][CH2:11][N:12]([C:13](=[O:14])[O:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23]1)[N:35]1[CH2:34][CH2:33][CH2:32][N:31]([c:30]2[n:29]([CH2:28][CH2:27][O:26][CH2:25][CH3:24])[c:44]3[c:39]([n:38]2)[cH:40][cH:41][cH:42][cH:43]3)[CH2:37][CH2:36]1,SN2,"[(35, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:8][cH:7][cH:6][cH:5][cH:4]1.[CH3:9][c:10]1[cH:11][cH:12][cH:13][c:14]([CH3:15])[c:16]1[NH:17][CH2:18][CH:19]([CH3:20])[OH:21]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)[N:17]([c:16]1[c:10]([CH3:9])[cH:11][cH:12][cH:13][c:14]1[CH3:15])[CH2:18][CH:19]([CH3:20])[OH:21],[CH3:9][c:10]1[cH:11][cH:12][cH:13][c:14]([CH3:15])[c:16]1[NH:17][CH2:18][CH:19]([CH3:20])[OH:21].[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)[N:17]([c:16]1[c:10]([CH3:9])[cH:11][cH:12][cH:13][c:14]1[CH3:15])[CH2:18][CH:19]([CH3:20])[OH:21],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(17, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)([c:14]1[cH:19][cH:18][cH:17][cH:16][cH:15]1)[c:8]1[cH:13][cH:12][cH:11][cH:10][cH:9]1.[N:20]#[C:21][c:22]1[cH:23][nH:24][cH:25][n:26]1>>[C:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[n:24]1[cH:23][c:22]([C:21]#[N:20])[n:26][cH:25]1,[Cl:101][C:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[N:20]#[C:21][c:22]1[cH:23][nH:24][cH:25][n:26]1>>[C:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[n:24]1[cH:23][c:22]([C:21]#[N:20])[n:26][cH:25]1,SN1,"[([1, 101], 101), (24, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:3][cH:4][c:5]([C:6]2=[N:7][NH:8][C:9](=[O:10])[C:11]2([CH3:12])[CH3:13])[c:14]([F:15])[c:16]1[F:17]>>[OH:1][c:2]1[cH:3][cH:4][c:5]([C:6]2=[N:7][NH:8][C:9](=[O:10])[C:11]2([CH3:12])[CH3:13])[c:14]([F:15])[c:16]1[F:17],[CH3:101][O:1][c:2]1[cH:3][cH:4][c:5]([C:6]2=[N:7][NH:8][C:9](=[O:10])[C:11]2([CH3:12])[CH3:13])[c:14]([F:15])[c:16]1[F:17].Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][cH:4][c:5]([C:6]2=[N:7][NH:8][C:9](=[O:10])[C:11]2([CH3:12])[CH3:13])[c:14]([F:15])[c:16]1[F:17],O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:15][cH:14][c:5]([C:6](=[O:7])[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[cH:4][cH:3]1.[CH3:16][CH2:17][N:18]([CH2:19][CH2:20][OH:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([C:6](=[O:7])[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[cH:14][cH:15]1)[O:21][CH2:20][CH2:19][N:18]([CH2:17][CH3:16])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,[Br:101][CH2:1][c:2]1[cH:3][cH:4][c:5]([C:6](=[O:7])[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[cH:14][cH:15]1.[CH3:16][CH2:17][N:18]([CH2:19][CH2:20][OH:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([C:6](=[O:7])[c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[cH:14][cH:15]1)[O:21][CH2:20][CH2:19][N:18]([CH2:17][CH3:16])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,SN2_alcohol(thiol),"[(301, 21.1), ([21.1, 21], 21), (21, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
